US07939533B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-thiazolidin-3-yl-pyridin-3-yl]-N-methyl-isobutyramide
A mixture of 0.25 g (0.47 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide and 0.59 g (6.6 mmol) thiazolidine was heated three times at 180° C. for 30 minutes and once at 250° C. for 15 minutes under microwave irradiation in a sealed tube. The reaction mixture was diluted with a 0.2 M aqueous solution of sodium hydroxide and extracted with three portions of tert-butyl methyl ether. The combined organic extracts were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography and drying in high vacuo (70-90° C./1-2 mbar) for three hours gave 33 mg (12%) of the title compound as a yellow oil.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.47 mmol, 0.25 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)Cl)(C)C)(F)F | C25H20ClF7N2O
reactant | thiazolidine | 6.6 mmol, 0.59 g | S1CNCC1 | C3H7NS
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-thiazolidin-3-yl-pyridin-3-yl]-N-methyl-isobutyramide | 33 mg, 12% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1CSCC1)(C)C)(F)F | C28H26F7N3OS
